reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2](=[O:3])[C:4]([O-:5])=[C+:6][O:7][H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10],33.419954582893986
[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C@@:3]1([O:4][H:15])[C@@:5]([C:7]([H:16])([H:17])[H:18])([H:12])[C:6]1([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],79.798967831858
[O:1]=[c:2]1[n:3]([H:7])[n:4][n:5][n:6]1[H:8]>>[O-:1][c:2]1[n:3][n:4]([H:7])[n:5][n+:6]1[H:8],64.72915413331549
[C:3]([O:4][H:7])([C:5]#[C:6][H:12])([H:10])[H:11].[O:1]=[C:2]([H:8])[H:9]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[C:6][H:12])[H:10])([H:8])[H:9])[H:7],85.7514891931729
[C:1](/[N:2]=[C:3](/[C:6]([O:7][H:16])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10].[O:4]=[C:5]([H:12])[H:13]>>[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],94.7394790689497
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]([O:5][H:14])([H:17])[C:6]([H:15])([H:16])[C:7]1)([H:8])([H:9])[H:10],64.1528375030894
[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([C:6]#[C:7][H:15])[C:3]([H:12])([H:13])[C@@:4]1([C:5][H:14])[H:11])([H:8])([H:9])[H:10],91.84327554978228
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[C:5](=[O:6])[H:14])([H:7])([H:8])[H:9].[O:4]([H:10])[H:13],57.484773589364785
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[H:17][H:18]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]([O:6][H:18])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],68.5987456764016
[O-:1][N:2]([C+:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7]>>[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7],40.7115959437372
[C:1]([H:8])([H:9])([H:10])[H:11].[C:2]([O:3][H:12])[C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10],23.622466227309914
[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11]>>[O:1]=[C:2]1[C:3]([H:7])([H:8])[N+:4]2([H:10])[C-:5]([H:9])[C@@:6]12[H:11],65.0922139013558
[C:1]([O:2][C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O:2][O:5][C:4](=[C:3]([H:9])[H:10])[H:11])([H:6])([H:7])[H:8],101.838600908967
[O-:1][C:2](=[C:3]1[C:4]([H:8])([H:9])[N+:5]1([H:7])[H:10])[H:6]>>[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6],21.37017702177471
[C:1]([C:2](=[O:3])[H:11])([H:8])([H:9])[H:10].[C:4](=[O:5])=[C:6]=[C:7]([H:12])[H:13]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],32.9400147469843
[C:1]([C@@:2]1([H:10])[C:3]([H:12])([H:13])[C@:4]1([O:5][H:11])[N:6]([H:14])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[N:6]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],43.251702402328895
[C:1]([C:2]([C@@:3]1([H:13])[C:6]([H:17])=[N:7]1)([H:11])[H:12])([H:8])([H:9])[H:10].[C:4](=[C:5]([H:16])[H:18])([H:14])[H:15]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],41.64643531267039
[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:6]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10].[C:3](=[O:4])=[C:5]([O:7][H:15])[H:11],117.57381554418801
[C:1]([C:2]([N:5]=[C:4]=[C:3]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]#[N:5])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],70.19255413849379
[C:1]([O:2][C:3]([C:4](=[C:5]=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[H:13][H:14]>>[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],51.02307003009439
[C:1]([C@@:2]1([H:10])[O:3][C@@:4]1([C:5]([H:12])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9].[O:6]([H:11])[H:16]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],69.59036522128159
[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O+:5]=[C:4]([N:3]([C-:2]([H:10])[H:11])[H:12])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9],105.003428649063
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C-:1]([O+:2]=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([O:6][H:16])([H:14])[H:15])([H:7])[H:8].[H:9][H:10],84.0008523521193
[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:3](=[C:4]=[C:5]([C:6]([H:14])([H:15])[H:16])[H:9])([H:12])[H:13]>>[C:1]([C:2]([C:3]([C:4]#[C:5][C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],35.0480700615655
